US06258953B1
3-[2-(4-Methylpiperazin-1-yl)phenyl]-N-(4-trifluoromethylphenyl)-acrylamide
In a flame-dried 3-neck round bottom flask equipped with a magnetic stir bar, sodium hydride (50 mg, 1.25 mmol of a 60% oil dispersion) was washed with hexane and covered with 6.0 mL of anhydrous dimethylformamide (DMF). To this was added a solution of 3-(4-trifluoromethylphenyl)-thiazolidine-2,4-dione (240 mg, 0.92 mmol) and 2-(4-methylpiperazin-1-yl)benzaldehyde (170 mg, 0.84 mmol) in 2 mL of DMF. After stirring at room temperature overnight the mixture was heated to reflux for 4 hours and cooled. The solvent was removed in vacuo and the residue partitioned between saturated aqueous ammonium chloride and chloroform. The organic layer was washed with saturated NaCl, dried and filtered. The residue was absorbed onto silica gel (640 mg) and flash chromatographed on a 4×0.75 in column eluting with ethyl acetate: hexanes (3:1) followed by 100% ethyl acetate. The crude product oil was dissolved in hot EtOAc and allowed to cool to deposit 30 mg of yellow crystals which were filtered and dried, m.p. 207-209° C.

reactant | 3-(4-trifluoromethylphenyl)-thiazolidine-2,4-dione | 0.92 mmol, 240 mg | FC(C1=CC=C(C=C1)N1C(SCC1=O)=O)(F)F | C10H6F3NO2S
reactant | 2-(4-methylpiperazin-1-yl)benzaldehyde | 0.84 mmol, 170 mg | CN1CCN(CC1)C1=C(C=O)C=CC=C1 | C12H16N2O
solvent | DMF | 2 mL | CN(C=O)C | C3H7NO
product | 3-[2-(4-Methylpiperazin-1-yl)phenyl]-N-(4-trifluoromethylphenyl)-acrylamide | CN1CCN(CC1)C1=C(C=CC=C1)C=CC(=O)NC1=CC=C(C=C1)C(F)(F)F | C21H22F3N3O
